US03994886
reaction of 7-ACA with phosgene (or thiophosgene) to yield isocyanato (or isothiocyanato) cephalosporanic acid which is reacted with the appropriate amine of formula R1NH2 and then either catalytic hydrogenation of the 3-acetoxy group to yield the 3-methyl group or displacement of the 3-acetoxy group of 7-ACA with the desired mercaptoheterocyclic compound.

reactant | 7-ACA | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | thiophosgene | C(=S)(Cl)Cl | CCl2S
product | cephalosporanic acid | CC(=O)OCC1=C(N2[C@@H](CC2=O)SC1)C(=O)O | C10H11NO5S
